US04918083
1-(1-hydroxyethyl)-2-hydroxymethylbenzene
To a suspension of 12 g of lithium aluminium hydride in 50 ml of dry diethyl ether was added dropwise with stirring a solution of 25 g (152.4 mM) of 2-acetylbenzoic acid in 120 ml of dry tetrahydrofuran. After heating under reflux for 6 hours, the mixture was cooled and treated carefully with 12 ml of water, 12ml of 10% sodium hydroxide solution and 24 ml of water. The solution was filtered, the filtrate was dried over magnesium sulphate, filtered and evaporated to yield the title compound as a colourless waxy solid.

reactant | lithium aluminium hydride | 12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-acetylbenzoic acid | 152.4 mM, 25 g | C(C)(=O)C1=C(C(=O)O)C=CC=C1 | C9H8O3
reactant | water | 12 ml | O | H2O
reactant | sodium hydroxide | 12ml | [OH-].[Na+]
reactant | water | 24 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1-(1-hydroxyethyl)-2-hydroxymethylbenzene | OC(C)C1=C(C=CC=C1)CO | C9H12O2
